US08232278B2
to a suspension of 2-acetamido-6-(3-methyl-4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one (312 mg, 1 mmol) in toluene (10 ml) was added morpholine (4 mmol, 0.23 ml), p-toluene sulfonic acid (0.1 mmol, 19 mg), ammonium sulfate (13 mg, 0.1 mmol) and 1,1,1,3,3,3-hexamethyldisilazane (2 ml, 8 mmol). The reaction mixture was refluxed for 48 hours till a brown solution was formed. The solvents were evaporated in vacuo, yielding crude 2-acetamido-4-(morpholino)-6-(4-methyl-3-fluoro-phenyl)-pyrido[3,2-d]pyrimidine. The residue was redissolved in a mixture of dichloromethane and ethanol (in a ratio of 80/20, 10 ml). A sodium ethoxide solution (0.2 N solution) was added till pH 12 and the resulting mixture was stirred overnight at room temperature. The solvents were evaporated in vacuo. The crude residue was purified by preparative TLC on silica, using a methanol/dichloromethane mixture in a ratio of 10:90 as mobile phase, yielding pure 2-amino-4-(morpholino)-6-(3-methyl-4-fluoro-phenyl)-pyrido[3,2-d]pyrimidine (80 mg, yield: 25%).

reactant | 2-acetamido-6-(3-methyl-4-fluorophenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one | 1 mmol, 312 mg | C(C)(=O)NC=1NC(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)F)C)=O | C16H13FN4O2
reactant | morpholine | 4 mmol, 0.23 ml | N1CCOCC1 | C4H9NO
reactant | p-toluene sulfonic acid | 0.1 mmol, 19 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ammonium sulfate | 0.1 mmol, 13 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 8 mmol, 2 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | sodium ethoxide | 0.2 N | [O-]CC.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-4-(morpholino)-6-(3-methyl-4-fluoro-phenyl)-pyrido[3,2-d]pyrimidine | 80 mg, yield: 25% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)F)C)N2CCOCC2 | C18H18FN5O
